### PR TITLE
[Merged by Bors] - feat: `ProbabilityTheory.cdf_eq_real` for measure on `unitInterval`

### PR DESCRIPTION
**Pull request by gaetanserre**
Given a probability measure `μ` on `I`, the CDF of the pushforward of `μ` along `Subtype.val` is equal to the measure of the closed interval.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by EtienneC30** [comment]
You can use [MeasureTheory.map_measureReal_apply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Real.html#MeasureTheory.map_measureReal_apply) to golf your proof. Also, I think it would be worth factoring out the lemma `Subtype.val ⁻¹' Iic ↑x = Icc 0 x`, as well as versions for `Iio`, `Ico` and `Ici`.

**Comment by gaetanserre** [comment]
> You can use [MeasureTheory.map_measureReal_apply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Real.html#MeasureTheory.map_measureReal_apply) to golf your proof.

Did you imagine something like that:
```lean
lemma unitInterval.cdf_eq_real (μ : Measure I) [IsProbabilityMeasure μ] (x : I) :
    cdf (μ.map Subtype.val) x.1 = μ.real (Icc 0 x) := by
  haveI : IsProbabilityMeasure (μ.map Subtype.val) := isProbabilityMeasure_map (by fun_prop)
  rw [ProbabilityTheory.cdf_eq_real, map_measureReal_apply measurable_subtype_coe measurableSet_Iic]
  congr with x
  simp only [preimage_subtype_val_Iic, mem_Iic, mem_Icc, zero_le', true_and]
```
(See [#27699](https://github.com/leanprover-community/mathlib4/pull/27515/commits/f533cb3249d9bce4a02752ac0b47bf68a53df371)).

> Also, I think it would be worth factoring out the lemma `Subtype.val ⁻¹' Iic ↑x = Icc 0 x`, as well as versions for `Iio`, `Ico` and `Ici`.

Just to be sure I understand correctly, you want me to create new lemmas that prove `Subtype.val ⁻¹' Ixx ↑? ↑x = Ixx ? x`?

**Comment by EtienneC30** [comment]
> Did you imagine something like that:
> 
> ```lean
> lemma unitInterval.cdf_eq_real (μ : Measure I) [IsProbabilityMeasure μ] (x : I) :
>     cdf (μ.map Subtype.val) x.1 = μ.real (Icc 0 x) := by
>   haveI : IsProbabilityMeasure (μ.map Subtype.val) := isProbabilityMeasure_map (by fun_prop)
>   rw [ProbabilityTheory.cdf_eq_real, map_measureReal_apply measurable_subtype_coe measurableSet_Iic]
>   congr with x
>   simp only [preimage_subtype_val_Iic, mem_Iic, mem_Icc, zero_le', true_and]
> ```

Yes this is what I had in mind.



> Just to be sure I understand correctly, you want me to create new lemmas that prove `Subtype.val ⁻¹' Ixx ↑? ↑x = Ixx ? x`?

Yes please. I realized I made a typo, I meant:

- `Subtype.val ⁻¹' Iic ↑x = Icc 0 x`
- `Subtype.val ⁻¹' Iio ↑x = Ico 0 x`
- `Subtype.val ⁻¹' Ici ↑x = Icc x 1`
- `Subtype.val ⁻¹' Ioi ↑x = Ioc x 1`

You can put them in `Mathlib.Topology.UnitInterval` I think. In particular you can put the first one in the `rw` in your proof of `unitInterval.cdf_eq_real` to make it even shorter.

File: Mathlib/Probability/CDF.lean [hunk 1]
```diff
@@ -99,6 +99,15 @@ lemma cdf_measure_stieltjesFunction (f : StieltjesFunction) (hf0 : Tendsto f atB
     ⟨by rw [f.measure_univ hf0 hf1, sub_zero, ENNReal.ofReal_one]⟩
   exact measure_cdf f.measure
 
+
+open unitInterval
+lemma unitInterval.cdf_eq_real (μ : Measure I) [IsProbabilityMeasure μ] (x : I) :
```
Comment (EtienneC30) [inline Mathlib/Probability/CDF.lean]: It's slightly better to use `open .. in` in case someone adds an other result below yours that does not require the namespace. Also I removed an unnecessary blank line.
```suggestion
open unitInterval in
lemma unitInterval.cdf_eq_real (μ : Measure I) [IsProbabilityMeasure μ] (x : I) :
```

Comment (gaetanserre) [reply Mathlib/Probability/CDF.lean]: Indeed, thank you!

**Comment by gaetanserre** [comment]
> > Did you imagine something like that:
> > ```lean
> > lemma unitInterval.cdf_eq_real (μ : Measure I) [IsProbabilityMeasure μ] (x : I) :
> >     cdf (μ.map Subtype.val) x.1 = μ.real (Icc 0 x) := by
> >   haveI : IsProbabilityMeasure (μ.map Subtype.val) := isProbabilityMeasure_map (by fun_prop)
> >   rw [ProbabilityTheory.cdf_eq_real, map_measureReal_apply measurable_subtype_coe measurableSet_Iic]
> >   congr with x
> >   simp only [preimage_subtype_val_Iic, mem_Iic, mem_Icc, zero_le', true_and]
> > ```
> 
> Yes this is what I had in mind.
> 
> > Just to be sure I understand correctly, you want me to create new lemmas that prove `Subtype.val ⁻¹' Ixx ↑? ↑x = Ixx ? x`?
> 
> Yes please. I realized I made a typo, I meant:
> 
>     * `Subtype.val ⁻¹' Iic ↑x = Icc 0 x`
> 
>     * `Subtype.val ⁻¹' Iio ↑x = Ico 0 x`
> 
>     * `Subtype.val ⁻¹' Ici ↑x = Icc x 1`
> 
>     * `Subtype.val ⁻¹' Ioi ↑x = Ioc x 1`
> 
> 
> You can put them in `Mathlib.Topology.UnitInterval` I think. In particular you can put the first one in the `rw` in your proof of `unitInterval.cdf_eq_real` to make it even shorter.

I had these lemmas and use the first one in the `rw`, see [#ab08085](https://github.com/leanprover-community/mathlib4/pull/27515/commits/ab080852552cd36710dc6a2c0ccfb65b4e1c67a9).

**Comment by gaetanserre** [comment]
Because of [Set.preimage_subtype_val_Iic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Interval/Set/Image.html#Set.preimage_subtype_val_Iic) (and siblings), I had to change the left-hand side of the lemmas from `Subtype.val ⁻¹' Iic ↑x` to `Iic x`. I changed the `rw` in the original proof accordingly.

File: Mathlib/Topology/UnitInterval.lean [hunk 2]
```diff
@@ -224,6 +224,28 @@ instance : LinearOrderedCommMonoidWithZero I where
...
+lemma Ici_eq_Ico (x : I) : Ici x = Icc x 1 := by
+  ext y
+  simp only [mem_Ici, mem_Icc, iff_self_and]
+  exact fun _ ↦ y.2.2
+
+@[simp]
+lemma Ioi_eq_Ioc (x : I) : Ioi x = Ioc x 1 := by
+  ext y
+  simp only [mem_Ioi, mem_Ioc, iff_self_and]
+  exact fun _ ↦ y.2.2
```
Comment (EtienneC30) [inline Mathlib/Topology/UnitInterval.lean]: Ok I see. First, you can simplify these proofs as follows:
```suggestion
@[simp]
lemma Iic_eq_Icc (x : I) : Iic x = Icc 0 x := Icc_bot.symm

@[simp]
lemma Iio_eq_Ico (x : I) : Iio x = Ico 0 x := Ico_bot.symm

@[simp]
lemma Ici_eq_Icc (x : I) : Ici x = Icc x 1 := Icc_top.symm

@[simp]
lemma Ioi_eq_Ioc (x : I) : Ioi x = Ioc x 1 := Ioc_top.symm
```

Next, I think

- `Subtype.val ⁻¹' Iic ↑x = Icc 0 x`
- `Subtype.val ⁻¹' Iio ↑x = Ico 0 x`
- `Subtype.val ⁻¹' Ici ↑x = Icc x 1`
- `Subtype.val ⁻¹' Ioi ↑x = Ioc x 1`

are still worth having, even though you don't make them `simp`. You can add them below those, the proof should just be `by simp`.

Comment (gaetanserre) [reply Mathlib/Topology/UnitInterval.lean]: Sure thing, see [#5fcd526](https://github.com/leanprover-community/mathlib4/commit/5fcd526c3ab9dcc9b21582133985f414fbea2414).

File: Mathlib/Topology/UnitInterval.lean [hunk 3]
```diff
@@ -224,6 +224,26 @@ instance : LinearOrderedCommMonoidWithZero I where
...
+lemma Iic_eq_Icc (x : I) : Iic x = Icc 0 x := Icc_bot.symm
+
+@[simp]
+lemma Iio_eq_Ico (x : I) : Iio x = Ico 0 x := Ico_bot.symm
+
+@[simp]
+lemma Ici_eq_Icc (x : I) : Ici x = Icc x 1 := Icc_top.symm
+
+@[simp]
+lemma Ioi_eq_Ioc (x : I) : Ioi x = Ioc x 1 := Ioc_top.symm
```
Comment (EtienneC30) [inline Mathlib/Topology/UnitInterval.lean]: In fact I don't think these should be `simp` lemmas, because they do not simplify things, on the contrary they make them more complicated by introducing a second number (in fact `Icc_bot` and co are `simp` lemmas the other way around).
You can keep them if you want, but can you remove their `simp` tag please?

Comment (gaetanserre) [reply Mathlib/Topology/UnitInterval.lean]: I think you're right. I removed these lemmas but I kept the ones on `Subtype.val` (see [#c43e3ca](https://github.com/leanprover-community/mathlib4/pull/27515/commits/c43e3cabdc1b59326b6352de6210949465428661)). Is that okay?

Comment (EtienneC30) [reply Mathlib/Topology/UnitInterval.lean]: It's fine, just one last detail about the proofs:
```lean
  simp
  exact Icc_bot.symm
```
This is a non-terminal `simp` because it does not close the goal. These are hard to debug when they fail so you have to squeeze it:
```lean
  simp only [preimage_subtype_val_Iic]
  exact Icc_bot.symm
```
In this case you can just use `rw`:
```lean
  rw [preimage_subtype_val_Iic]
  exact Icc_bot.symm
```

Comment (gaetanserre) [reply Mathlib/Topology/UnitInterval.lean]: Indeed, sorry about that. It should be good now.

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks!
